US06384115B1
(i) N-(2-hydroxyethyl)-p-methoxybenzenesulphonamide (BJ)
The preparation is carried out as in Example 1(a) from 413.3 g (2 mol) of p-methoxybenzenesulphonyl chloride and 128.3 g (2.1 mol) of ethanolamine. Yield: 439.3 g, i.e. 95%.

reactant | p-methoxybenzenesulphonyl chloride | 2 mol, 413.3 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | ethanolamine | 2.1 mol, 128.3 g | C(O)CN | C2H7NO
product | N-(2-hydroxyethyl)-p-methoxybenzenesulphonamide | OCCNS(=O)(=O)C1=CC=C(C=C1)OC | C9H13NO4S
